US04525330
N,N,N',N'-tetraisoamyl pyridine-2,5-dicarboxamide was prepared using the method of Example 1 from pyridine-2,5-dicarboxylic acid and diisoamylamine. The crude product in toluene solution was washed several times with 0.5M aqueous sodium hydroxide and then with 0.5M aqueous hydrochloric acid and water. The solution was then treated with charcoal and filtered. The solvent was distilled under reduced pressure, but the product, a brown oil, was not itself distilled. It was made up as a 0.2M solution in AROMASOL H and tested for extraction of copper in the presence of chloride ion using the method of Examples 6 and 7 except that AROMASOL H was used as solvent. The results are given in Table 3. The results indicate that this is a very weak extractant suitable for recovering copper from aqueous solution of high chloride ion concentrations.

reactant | pyridine-2,5-dicarboxylic acid | N1=C(C=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | diisoamylamine | C(CC(C)C)NCCC(C)C | C10H23N
product | N,N,N',N'-tetraisoamyl pyridine-2,5-dicarboxamide | C(CC(C)C)N(C(=O)C1=NC=C(C=C1)C(=O)N(CCC(C)C)CCC(C)C)CCC(C)C | C27H47N3O2
